US04426524
To a stirred solution of 50.0 g (0.353 mol) of 3-chloro-2-methylaniline in 100 g (1.19 mol) of thiophene was added dropwise 82.7 g (0.706 mol) of isoamyl nitrite during 0.5 hour. Upon complete addition, the reaction mixture was heated to reflux temperature, and stirred for 0.75 hour. The reaction mixture was then allowed to cool to ambient temperature, and stirring was continued for 16 hours. The reaction mixture was concentrated under reduced pressure to give a black residual oil. The oil was subjected to column chromatography on silica gel, eluting with heptane, then heptane:ethyl acetate (40:1). The appropriate fractions were combined to give a red oil which was subjected to distillation under reduced pressure using a Kugelrohr distilling system to give 9.2 g of 2-(3-chloro-2methylphenyl)thiophene, b.p. 78° C.±3° C./0.05 mm.

reactant | 3-chloro-2-methylaniline | 0.353 mol, 50.0 g | ClC=1C(=C(N)C=CC1)C | C7H8ClN
reactant | thiophene | 1.19 mol, 100 g | S1C=CC=C1 | C4H4S
reactant | isoamyl nitrite | 0.706 mol, 82.7 g | N(=O)OCCC(C)C | C5H11NO2
product | 2-(3-chloro-2methylphenyl)thiophene | 9.2 g | ClC=1C(=C(C=CC1)C=1SC=CC1)C | C11H9ClS
